US04863920
4.18 g (10 mmol) of 7-bromo-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 2 hours with 1.12 g (11 mmol) of phenylacetylene, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 30 ml of diethylamine. The solvent was then evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from ethyl acetate there was obtained 7-bromo-4,5-dihydro-5-methyl-3-(phenylethynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 207°-209°.

reactant | 7-bromo-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 4.18 g | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9BrIN3O
reactant | phenylacetylene | 11 mmol, 1.12 g | C1(=CC=CC=C1)C#C | C8H6
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 7-bromo-4,5-dihydro-5-methyl-3-(phenylethynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC1=CC=CC=C1)C)=O | C20H14BrN3O
